US07906501B2
Step 1. 2-Methyl-5-decyn-4-one (1a)
21.6 g of AlCl3 (0.162 moles) in 65 mL of CCl4 are cooled to 2° C. and 19.7 mL of isovaleroyl chloride (0.162 moles) in 30 mL of CCl4 are added dropwise. 25 g of trimethylsilylhexyne (0.162 moles) in 30 mL of CCl4 are then added dropwise. The mixture is stirred for 1 h at 2° C. and for 24 h at ambient temperature. It is poured into 200 mL of 1:3 37% HCl/ice, stirred for 1 h, the phases are separated and the aqueous phase is extracted with CH2Cl2. The combined organic phases are washed to neutrality, dried with Na2SO4 and evaporated. 27 g of product are obtained, which are used in the subsequent step without further purification. Formula: C11H18O (m.w. 166.27). Quantitative yield. IR (film) 2956; 2209; 1670 cm−1.

reactant | AlCl3 | 0.162 moles, 21.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | isovaleroyl chloride | 0.162 moles, 19.7 mL | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | trimethylsilylhexyne | 0.162 moles, 25 g | C[Si](C)(C)C#CCCCC | C9H18Si
solvent | CCl4 | 65 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Methyl-5-decyn-4-one | 27 g, Quantitative yield | CC(C)CC(C#CCCCC)=O | C11H18O
